US04503256
2-Butyryl-4-(propen-2-yl)phloroglucinol (16 was treated by the same procedure as described for the preparation of 2,4-dibutyrylphloroglucinol in Example 34 (Method 2) to yield 2,4-dibutyryl-6-(propen-2-yl)phloroglucinol (21 after chromatography on silica gel (petroleum ether, ethyl acetate, 4:1).

reactant | 2-Butyryl-4-(propen-2-yl)phloroglucinol | C(CCC)(=O)C1=C(O)C=C(C(=C1O)C(=C)C)O | C13H16O4
reactant | 2,4-dibutyrylphloroglucinol | C(CCC)(=O)C1=C(O)C=C(C(=C1O)C(CCC)=O)O | C14H18O5
product | 2,4-dibutyryl-6-(propen-2-yl)phloroglucinol | C(CCC)(=O)C1=C(O)C(=C(C(=C1O)C(CCC)=O)O)C(=C)C | C17H22O5
